US05780483
Preparation of N-(2-hydroxy-4-nitrophenyl)-N'-(2-ethoxyphenyl)urea
N-(2-Hydroxy-4-nitrophenyl)-N'-(2-ethoxyphenyl)urea was prepared from 2-hydroxy 4-nitro aniline (500 mg, 3.24 mmol) and 2-ethoxy phenyl isocyanate (3.24 mmol) according to the procedure in General Method B. The product was purified by dilution with methylene chloride and precipitation with hexanes. Filtering afforded the title compound(0.84 g, 81%). EI-MS m/z 318(M+H)+

reactant | 2-hydroxy 4-nitro aniline | 3.24 mmol, 500 mg | OC1=C(N)C=CC(=C1)[N+](=O)[O-] | C6H6N2O3
reactant | 2-ethoxy phenyl isocyanate | 3.24 mmol | C(C)OC1=C(C=CC=C1)N=C=O | C9H9NO2
product | N-(2-hydroxy-4-nitrophenyl)-N'-(2-ethoxyphenyl)urea | 0.84 g, 81% | OC1=C(C=CC(=C1)[N+](=O)[O-])NC(=O)NC1=C(C=CC=C1)OCC | C15H15N3O5
